US07691879B2
4-(3-fluorophenyl)-1-[(3-hydroxypropyl)amino]-6-methoxyisoquinoline-3-carbonitrile
Following the procedure for 4-(3-fluorophenyl)-1-[(2-hydroxyethyl)amino]-6-methoxyisoquinoline-3-carbonitrile, using 3-amino-1-propanol in place of 2-aminoethanol, the title compound was synthesized.

reactant | 4-(3-fluorophenyl)-1-[(2-hydroxyethyl)amino]-6-methoxyisoquinoline-3-carbonitrile | FC=1C=C(C=CC1)C1=C(N=C(C2=CC=C(C=C12)OC)NCCO)C#N | C19H16FN3O2
reactant | 3-amino-1-propanol | NCCCO | C3H9NO
product | 4-(3-fluorophenyl)-1-[(3-hydroxypropyl)amino]-6-methoxyisoquinoline-3-carbonitrile | FC=1C=C(C=CC1)C1=C(N=C(C2=CC=C(C=C12)OC)NCCCO)C#N | C20H18FN3O2
